US07906645B2
Benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate
Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate dihydrochloride (389 mg) was dissolved in MeOH (5 mL) and diisopropylethylamine (0.52 mL) added under argon. Freshly dried 3 Å molecular sieves (413 mg) was added, followed sequentially by glacial acetic acid (0.2 mL), 1-ethoxy-1-trimethylsilyloxycyclopropane (1.2 mL) and sodium cyanoborohydride as a 1M solution in THF (4.5 mL). The mixture was heated at 81° C. for 2 hours, allowed to cool, filtered through Celite, washed through with 1:1 MeOH-THF (10 mL) and evaporated. The residue was partitioned between ethyl acetate and 1M aqueous sodium hydroxide solution, the organic extract washed with brine, dried over MgSO4 and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in dichloromethane to give the title compound as a white solid (222 mg, 62%).

reactant | Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate dihydrochloride | 389 mg | Cl.Cl.N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1
reactant | diisopropylethylamine | 0.52 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethoxy-1-trimethylsilyloxycyclopropane | 1.2 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | Benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate | 222 mg, 62% | C1(CC1)N1C[C@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H31N3O2
